### PR TITLE
[Merged by Bors] - feat(Algebra/Category): finitely presented algebras are finitely presented

### PR DESCRIPTION
**Pull request by erdOne**
Co-authored-by: Christian Merten

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by joelriou** [comment]
It could be nice to add an `IsFinitelyPresentable` abbreviation at https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Presentable/Basic.html#CategoryTheory.IsCardinalPresentable (by saying it satisfies ` IsCardinalPresentable X Cardinal.aleph0.{w}`) and show it is equivalent to the preservation of filtered colimits by using https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.html#CategoryTheory.isCardinalFiltered_aleph0_iff

**Comment by erdOne** [comment]
Does [352faad](https://github.com/leanprover-community/mathlib4/pull/21336/commits/352faadd27ccc6f9466c0255a5130cb384d11f97) look right to you?
In particular I'm not sure if "finitely accessible" is the right name. nlab seems to call this [finitary](https://ncatlab.org/nlab/show/finitary+functor)

**Comment by joelriou** [comment]
> Does [352faad](https://github.com/leanprover-community/mathlib4/pull/21336/commits/352faadd27ccc6f9466c0255a5130cb384d11f97) look right to you? In particular I'm not sure if "finitely accessible" is the right name. nlab seems to call this [finitary](https://ncatlab.org/nlab/show/finitary+functor)

The reference book "Locally presentable and accessible categories" by Adamek-Rosicky uses the phrases "finitely accessible" and "finitely presentable".
Your code looks fine to me. I would just define `IsFinitelyPresentable` in terms of `IsCardinalPresentable` rather than `IsFinitelyAccessible`.

File: Mathlib/Algebra/Category/Ring/FinitePresentation.lean [hunk 1]
```diff
@@ -0,0 +1,171 @@
...
+    {i : J} (a : S ⟶ F.obj i) (ha : f ≫ a = α.app i)
+    {j : J} (b : S ⟶ F.obj j) (hb : f ≫ b = α.app j)
+    (hab : a ≫ c.ι.app i = b ≫ c.ι.app j) :
+    ∃ (k : J) (hik : i ⟶ k) (hjk : j ⟶ k),
+      a ≫ F.map hik = b ≫ F.map hjk := by
+  classical
+  obtain ⟨hc'⟩ := PreservesColimit.preserves (F := forget _) hc
+  choose k f₁ f₂ h using fun x : S ↦
+    (Types.FilteredColimit.isColimit_eq_iff _ hc').mp congr(($hab).hom x)
+  let D : MulticospanIndex J :=
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Ring/FinitePresentation.lean:49]: You may have to do a fix after merging with master because of https://github.com/leanprover-community/mathlib4/pull/20988

File: Mathlib/Algebra/Category/Ring/FinitePresentation.lean [hunk 2]
```diff
@@ -0,0 +1,168 @@
...
+
+include hc in
+/--
+Given a filtered diagram `F` of rings over `R`, `S` an (essentially) of finite type `R`-algebra,
+and two ring homs `a : S ⟶ Fᵢ` and `b : S ⟶ Fⱼ` over `R`.
+If `a` and `b` agree at `S ⟶ colimit F`,
+then there exists `k` such that `a` and `b` are equal at `S ⟶ F_k`.
+In other words, the map `colimᵢ Hom_R(S, Fᵢ) ⟶ Hom_R(S, colim F)` is injective.
+-/
+lemma exists_comp_map_eq_of_isColimit (hf : f.hom.EssFiniteType)
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Ring/FinitePresentation.lean:39]: These declarations should go in a suitable namespace.

File: Mathlib/Algebra/Category/Ring/FinitePresentation.lean [hunk 3]
```diff
@@ -0,0 +1,168 @@
...
+    simp [← α.naturality]
+  · intro x hx
+    rw [← c'.w (.fst (by exact ⟨x, hx⟩)), ← c'.w (.snd (by exact ⟨x, hx⟩))]
+    have (x) : F.map (f₁ x) (a x) = F.map (f₂ x) (b x) := h x
+    simp [D, this]
+
+example {α : Type*} {β : α → Type*} : Nonempty (Π i, β i) ↔ ∀ i, Nonempty (β i) := by
+  simp_rw [← exists_true_iff_nonempty, Classical.skolem, implies_true]
+
+
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Ring/FinitePresentation.lean:69]:
```suggestion
```

File: Mathlib/Algebra/Category/Ring/FinitePresentation.lean [hunk 4]
```diff
@@ -0,0 +1,168 @@
...
+Given a filtered diagram `F` of rings over `R`, `S` a finitely presented `R`-algebra,
+and a ring hom `g : S ⟶ colimit F` over `R`.
+then there exists `i` such that `g` factors through `Fᵢ`.
+In other words, the map `colimᵢ Hom_R(S, Fᵢ) ⟶ Hom_R(S, colim F)` is surjective.
+-/
+lemma RingHom.EssFiniteType.exists_eq_comp_ι_app_of_isColimit (hf : f.hom.FinitePresentation)
+    (g : S ⟶ c.pt) (hg : ∀ i, f ≫ g = α.app i ≫ c.ι.app i) :
+    ∃ (i : J) (g' : S ⟶ F.obj i), f ≫ g' = α.app i ∧ g = g' ≫ c.ι.app i := by
+  classical
+  obtain ⟨hc'⟩ := PreservesColimit.preserves (F := forget _) hc
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Ring/FinitePresentation.lean:77]: It would be better to use `isColimitOfPreserves` here.

File: Mathlib/Algebra/Category/Ring/FinitePresentation.lean [hunk 5]
```diff
@@ -0,0 +1,168 @@
...
+    obtain ⟨x, rfl⟩ := hπ x
+    suffices (π ≫ g) x = (g' ≫ F.map (c'.ι.app none) ≫ c.ι.app _) x by
+      simpa [RingHom.liftOfRightInverse_comp_apply, -NatTrans.naturality] using this
+    rw [c.w, hg']
+    rfl
+
+/-- If `S` is finitely presented `R`-algebra, then `Hom_R(S, -)` preserves filtered colimits. -/
+lemma preservesColimit_coyoneda_of_finitePresentation
+    (S : Under R) (hS : S.hom.hom.FinitePresentation) (F : J ⥤ Under R)
+  [PreservesColimit (F ⋙ Under.forget R) (forget CommRingCat)] :
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Ring/FinitePresentation.lean:136]:
```suggestion
    [PreservesColimit (F ⋙ Under.forget R) (forget CommRingCat)] :
```

File: Mathlib/CategoryTheory/Presentable/Finite.lean [hunk 6]
```diff
@@ -0,0 +1,62 @@
...
+    simp only [isCardinalFiltered_aleph0_iff] at * <;>
+    exact H
+
+lemma Functor.isFinitelyAccessible_iff_preservesFilteredColimits {F : C ⥤ D} :
+    IsFinitelyAccessible.{v'} F ↔ PreservesFilteredColimits F :=
+  IsFinitelyAccessible_iff_preservesFilteredColimitsOfSize
+
+/-- An object `X` is finitely presentable if `Hom(X, -)` preserves all filtered colimits. -/
+abbrev IsFinitelyPresentable (X : C) : Prop :=
+  IsCardinalPresentable.{v} X ℵ₀
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Presentable/Finite.lean:46]:
```suggestion
  IsCardinalPresentable.{w} X ℵ₀
```

File: Mathlib/Algebra/Category/Ring/FinitePresentation.lean [hunk 7]
```diff
@@ -0,0 +1,164 @@
...
+    rw [← Category.assoc, hg'', ← NatTrans.naturality]
+    simp only [Functor.const_obj_obj, Functor.const_obj_map, Category.id_comp]
+  · ext x
+    obtain ⟨x, rfl⟩ := hπ x
+    suffices (π ≫ g) x = (g' ≫ F.map (c'.ι.app none) ≫ c.ι.app _) x by
+      simpa [RingHom.liftOfRightInverse_comp_apply, -NatTrans.naturality] using this
+    rw [c.w, hg']
+    rfl
+
+/-- If `S` is finitely presented `R`-algebra, then `Hom_R(S, -)` preserves filtered colimits. -/
```
Comment (joelriou) [inline Mathlib/Algebra/Category/Ring/FinitePresentation.lean:133]:
```suggestion
/-- If `S` is a finitely presented `R`-algebra, then `Hom_R(S, -)` preserves filtered colimits. -/
```

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by joelriou** [comment]
retrying

bors merge
